US03932432
Preparation of 2-Benzyl-8-(4-p-Fluorophenyl-1-Methylbutyl)-10-Hydroxy-5-Oxo-1,2,3,4-Tetrahydro-5H-[1]Benzopyrano[4,3-c]Pyridin-10-ol Hydrochloride
To 45 g. of 2-(3,5-dihydroxyphenyl)-5-(4-fluorophenyl)pentane dissolved in 100 ml. of methanesulfonic acid were added in portions, 57 g. of 1-benzyl-3-keto-4-carbethoxy piperidine hydrochloride. While stirring, 68 g. of POCl3 was added and the solution was stirred for 5 days at room temperature. Water (300 ml.) and 180 ml. of CHCl3 were then added and the reaction mixture stirred for 30 minutes. After the addition of 100 ml. of 15% NaOH, the reaction was stirred for an additional 10 minutes. The CHCl3 layer was separated and extracted with 10% HCl. The CHCl3 layer was concentrated and CH3CN added thereto to yield 55 g. of the desired product as the hydrochloride salt, m.p. 254° - 256° C.

reactant | 2-(3,5-dihydroxyphenyl)-5-(4-fluorophenyl)pentane | OC=1C=C(C=C(C1)O)C(C)CCCC1=CC=C(C=C1)F | C17H19FO2
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | 1-benzyl-3-keto-4-carbethoxy piperidine hydrochloride | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | [OH-].[Na+]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | Water | 300 ml | O | H2O
product | 2-Benzyl-8-(4-p-Fluorophenyl-1-Methylbutyl)-10-Hydroxy-5-Oxo-1,2,3,4-Tetrahydro-5H-[1]Benzopyrano[4,3-c]Pyridin-10-ol Hydrochloride | Cl.C(C1=CC=CC=C1)N1CC=2C(CC1)C(OC=1C2C(C=C(C1)C(CCCC1=CC=C(C=C1)F)C)(O)O)=O | InChI=1S/C30H32FNO4.ClH/c1-20(6-5-9-21-10-12-24(31)13-11-21)23-16-27-28(30(34,35)17-23)26-19-32(15-14-25(26)29(33)36-27)18-22-7-3-2-4-8-22;/h2-4,7-8,10-13,16-17,20,25,34-35H,5-6,9,14-15,18-19H2,1H3;1H
